US06924310B2
4-(4-Amino-2,6-dichloro-phenoxy)-2-cyclopropylmethanesulfonyl-phenol
To a solution of 2-cyclopropylmethanesulfonyl-4-(2,6-dichloro-4-nitro-phenoxy)-phenol (76 mg, 0.18 mmol) in ethanol (2 mL) was added catalyst 10% Pd/C (27 mg). The mixture was hydrogenated under 45 psi at RT for 12 h. The mixture was filtered through Celite and concentrated to give the title compound of Step E (43 mg) as a solid. The title product of Step E was used in the next step without further purification. MS (APCl−) Calc.: 387.0. Found: 386.2 (M−1).

reactant | 2-cyclopropylmethanesulfonyl-4-(2,6-dichloro-4-nitro-phenoxy)-phenol | 0.18 mmol, 76 mg | C1(CC1)CS(=O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)O | C16H13Cl2NO6S
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Pd/C | 27 mg | [Pd] | Pd
product | 4-(4-Amino-2,6-dichloro-phenoxy)-2-cyclopropylmethanesulfonyl-phenol | 43 mg | NC1=CC(=C(OC2=CC(=C(C=C2)O)S(=O)(=O)CC2CC2)C(=C1)Cl)Cl | C16H15Cl2NO4S
